US05710138
[6-(Piperidin-1-yl)-2,3-dioxo-1,2,3,4-tetrahydrobenzo[f]quinoxalin-4-yl]-methanephosphonic acid diethyl ester
A mixture of 100 microliters of aqueous glutaric dialdehyde (content about 25%), 300 microliters of diluted sulfuric acid and 1 ml of tetrahydrofuran/methanol 1:1 is added with stirring at ice bath temperature to 37 mg of (6-amino-2,3-dioxo-1,2,3,4-tetrahydrobenzo[f]quinoxalin-4-yl)-methanephosphonic acid diethyl ester in 2 ml of tetrahydrofuran z.A., to which 13 mg of sodium borohydride was added. Then, another 10 mg of sodium boronate is added and worked up for 1 more hour. The mixture is neutralized and extracted with ethyl acetate. After chromatography with a little silica gel, 16 mg of product is obtained.

reactant | glutaric dialdehyde | 100 microliters | C(CC=O)CC=O | C5H8O2
reactant | sulfuric acid | 300 microliters | S(O)(O)(=O)=O | H2O4S
reactant | (6-amino-2,3-dioxo-1,2,3,4-tetrahydrobenzo[f]quinoxalin-4-yl)-methanephosphonic acid diethyl ester | 37 mg | C(C)OP(OCC)(=O)CN1C(C(NC=2C3=C(C(=CC12)N)C=CC=C3)=O)=O | C17H20N3O5P
reactant | sodium borohydride | 13 mg | [BH4-].[Na+]
reactant | sodium boronate | 10 mg | B([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran methanol | 1 ml | O1CCCC1.CO
product | [6-(Piperidin-1-yl)-2,3-dioxo-1,2,3,4-tetrahydrobenzo[f]quinoxalin-4-yl]-methanephosphonic acid diethyl ester | 16 mg | C(C)OP(OCC)(=O)CN1C(C(NC=2C3=C(C(=CC12)N1CCCCC1)C=CC=C3)=O)=O | C22H28N3O5P
